US08604015B2
To a solution of 3-fluorobenzyl quinuclidine-4-carboxylate (41 mg, 0.16 mmol) dissolved in EtOAc (2 ml), 2-chloro-1-(thiophen-2-yl)ethanone (20.0 mg, 0.12 mmol) was added. The reaction was stirred at room temperature for three days, and then the precipitate was collected by suction filtration to obtain 4-((3-fluorobenzyloxy)carbonyl)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (30 mg, 45.4% yield).

reactant | 3-fluorobenzyl quinuclidine-4-carboxylate | 0.16 mmol, 41 mg | N12CCC(CC1)(CC2)C(=O)OCC2=CC(=CC=C2)F | C15H18FNO2
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.12 mmol, 20.0 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | 4-((3-fluorobenzyloxy)carbonyl)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 30 mg, 45.4% yield | [Cl-].FC=1C=C(COC(=O)C23CC[N+](CC2)(CC3)CC(C=3SC=CC3)=O)C=CC1 | InChI=1S/C21H23FNO3S.ClH/c22-17-4-1-3-16(13-17)15-26-20(25)21-6-9-23(10-7-21,11-8-21)14-18(24)19-5-2-12-27-19;/h1-5,12-13H,6-11,14-15H2;1H/q+1;/p-1
